US06992087B2
Preparation of (trans)-1-[(3,6-diethylpyrazin-2-yl)amino]-1,2,3,4-tetrahydronaphthalen-2-ol
Following the procedure for the preparation of (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting (trans)-1-amino-1,2,3,4-tetrahydronaphthalen-2-ol and making non-critical variations provided the title compound as a oil: 1H NMR (CDCl3) δ 1.27-1.34, 2.01, 2.24, 2.64, 2.84, 2.93, 4.03, 4.76, 5.06, 5.17, 7.19-7.21, 7.25-7.27, 7.34-7.37, 7.66;

reactant | (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | C(C)C=1C(=NC(=CN1)CC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C17H21N3O
reactant | (trans)-1-amino-1,2,3,4-tetrahydronaphthalen-2-ol | N[C@H]1[C@@H](CCC2=CC=CC=C12)O | C10H13NO
product | (trans)-1-[(3,6-diethylpyrazin-2-yl)amino]-1,2,3,4-tetrahydronaphthalen-2-ol | C(C)C=1C(=NC(=CN1)CC)N[C@H]1[C@@H](CCC2=CC=CC=C12)O | C18H23N3O
